US08809012B2
Step 1: Synthesis of methyl 2-((3-phenylpropyl)amino)acetate
Under argon condition, glycine methyl ester (330 mg, 2.63 mmol) was dissolved in 3 mL of dry DMF and then DIPEA (573 μL, 3.29 mmol) and 1-bromo-3-phenylpropane (100 μL, 0.658 mmol) were added. The reaction mixture was then stirred for one day at room temperature. Upon completion of the reaction, the reaction was terminated by adding 5 mL of water, and the reaction mixture was extracted with diethyl ether (4 mL×4). The organic layer thus obtained was treated with anhydrous magnesium sulfate to remove water. The precipitate was filtered out and the resulting solution was concentrated by distillation under reduced pressure and purified by column chromatography to obtain 19.6 mg (0.0946 mmol, 14%) of the desired compound.

reactant | glycine methyl ester | 2.63 mmol, 330 mg | COC(CN)=O | C3H7NO2
reactant | DIPEA | 3.29 mmol, 573 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | 1-bromo-3-phenylpropane | 0.658 mmol, 100 μL | BrCCCC1=CC=CC=C1 | C9H11Br
reactant | magnesium sulfate | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | methyl 2-((3-phenylpropyl)amino)acetate | 0.0946 mmol, 19.6 mg, 14% | C1(=CC=CC=C1)CCCNCC(=O)OC | C12H17NO2
